US07812183B2
4-[4-(4-Chloro-phenyl)-piperazin-1-yl]-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile (Compound #50)
Following the procedure in Example 1, using (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile and 1-(4-chloro-phenyl)-piperazine as starting material, the title compound was prepared as a white solid.

reactant | (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile | CC1(C2C(C3=CC(=CC=C3O1)C#N)O2)C | C12H11NO2
reactant | 1-(4-chloro-phenyl)-piperazine | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
product | 4-[4-(4-Chloro-phenyl)-piperazin-1-yl]-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile | ClC1=CC=C(C=C1)N1CCN(CC1)C1C(C(OC2=CC=C(C=C12)C#N)(C)C)O | C22H24ClN3O2
